US08258122B2
b) tert-Butyl 1-(2-(3,5-difluoropyridin-2-yl)hydrazinyl)-2-methyl-1-oxopropan-2-ylcarbamate
This compound was prepared (66%) from 3,5-difluoro-2-hydrazinopyridine and N-(tert-butoxycarbonyl)-2-methylalanine following the experimental procedure described for the synthesis of Intermediate 21, step a.

reactant | 3,5-difluoro-2-hydrazinopyridine | FC=1C(=NC=C(C1)F)NN | C5H5F2N3
reactant | N-(tert-butoxycarbonyl)-2-methylalanine | C(C)(C)(C)OC(=O)NC(C)(C(=O)O)C | C9H17NO4
product | tert-Butyl 1-(2-(3,5-difluoropyridin-2-yl)hydrazinyl)-2-methyl-1-oxopropan-2-ylcarbamate | FC=1C(=NC=C(C1)F)NNC(C(C)(C)NC(OC(C)(C)C)=O)=O | C14H20F2N4O3
